US08053457B2
4-Chloro-2-methoxy-benzylamine
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and methanol analogously to the preparation of Intermediate 98.1 as a colorless oil; HPLC: AtRet=2.24 min; 1HNMR (CDCl3) δ 7.20-7.10 (m, 1H), 7.00-6.80 (m 2H), 3.90-3.80 (m, 5H), 1.80 (bs, 2H).

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | methanol | CO | CH4O
product | 4-Chloro-2-methoxy-benzylamine | ClC1=CC(=C(CN)C=C1)OC | C8H10ClNO
